US07253154B2
(6) 2-(3-Cyano-4-isobutyloxyphenyl)benzimidazole-7-carboxylic acid
A solution of methyl 3-(3-cyano-4-isobutyloxybenzoylamino)anthranilate (341 mg, 0.93 mmol) in glacial acetic acid (10 mL) was heated under reflux for 2 hours, cooled, and placed under reduced pressure to distill the solvent off. To the residue was added a solution of sodium hydroxide (240 mg, 10 mmol) in methanol (20 mL), and the mixture was stirred for 5 hours at room temperature. The reaction mixture was made acidic by addition of aqueous 1M hydrochloric acid, and placed under reduced pressure to distill the solvent off. To the residue were added ethyl acetate and water. The organic portion was taken out, dried over anhydrous magnesium sulfate, and placed under reduced pressure to distill the solvent off. The residue was washed with hot toluene, to give 300 mg (yield 960) of the desired compound in the form of a pale yellow crystalline product.

reactant | methyl 3-(3-cyano-4-isobutyloxybenzoylamino)anthranilate | 0.93 mmol, 341 mg | C(#N)C=1C=C(C(=O)NC2=C(C(C(=O)OC)=CC=C2)N)C=CC1OCC(C)C | C20H21N3O4
reactant | sodium hydroxide | 10 mmol, 240 mg | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
product | 2-(3-Cyano-4-isobutyloxyphenyl)benzimidazole-7-carboxylic acid | C(#N)C=1C=C(C=CC1OCC(C)C)C=1NC2=C(N1)C(=CC=C2)C(=O)O | C19H17N3O3
